US06492522B1
1.1 Preparation of dimethyl (4-piperidylmethyl)malonate [XXIXa]
A solution of dimethyl (4-pyridylmethylene)malonate [XXVIIIa] (925 g) in methanol (9 L) was hydrogenated in the presence of glacial acetic acid (360 mL) and 10% palladium on activated carbon catalyst (92.5 g) at 60° C. and 200 psi. The catalyst was filtered off and the resulting solution of the title compound in the form of acetic acid salt was used directly in the next step.

reactant | dimethyl (4-pyridylmethylene)malonate | 925 g | N1=CC=C(C=C1)C=C(C(=O)OC)C(=O)OC | C11H11NO4
reactant | acetic acid | 360 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 9 L | CO | CH4O
catalyst | palladium on activated carbon | 92.5 g | [Pd] | Pd
product | dimethyl (4-piperidylmethyl)malonate | N1CCC(CC1)CC(C(=O)OC)C(=O)OC | C11H19NO4
